US05861529
0.04 g of 10% palladium-on-charcoal is added to a solution of 0.42 g of methyl ester of methyl 2(S)-(6-nitro-1-naphthoylamino)-4-(methylsulphonyl)butanoate dissolved in 30 cm3 of ethyl acetate and 20 cm3 of ethanol and the solution is subjected to a hydrogen pressure of 1.5 atmosphere for 3 hours at a temperature in the region of 20° C. The reaction mixture is filtered on sintered glass covered with Celite and concentrated to dryness under reduced pressure. 0.6 g of methyl 2(S)-(6-amino-1-naphthoylamino)-4-(methylsulphonyl)-butanoate is obtained, the characteristics of which are the following:

reactant | methyl 2(S)-(6-nitro-1-naphthoylamino)-4-(methylsulphonyl)butanoate | [N+](=O)([O-])C=1C=C2C=CC=C(C2=CC1)C(=O)N[C@H](C(=O)OC)CCS(=O)(=O)C | C17H18N2O7S
reactant | ethanol | 20 cm3 | C(C)O | C2H6O
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 30 cm3 | C(C)(=O)OCC | C4H8O2
catalyst | palladium-on-charcoal | 0.04 g | [Pd] | Pd
product | methyl 2(S)-(6-amino-1-naphthoylamino)-4-(methylsulphonyl)-butanoate | 0.6 g | NC=1C=C2C=CC=C(C2=CC1)C(=O)N[C@H](C(=O)OC)CCS(=O)(=O)C | C17H20N2O5S
